US08492378B2
2-[3-(4-fluorophenyl)-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole
A mixture of 2-(3-bromo-1-benzofuran-5-yl)-5-methyl-1,3,4-oxadiazole (251 mg, 0.900 mmol), (4-fluorophenyl)boronic acid (140 mg, 1.00 mmol), tetrakis(triphenylphosphine)palladium(0) (31.2 mg, 0.0270 mmol), sodium carbonate (212 mg, 2.00 mmol), 1,2-dimethoxyethane (5 mL) and water (1 mL) was heated overnight under reflux under an argon atmosphere. After cooling, the reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1) and recrystallized from hexane/ethyl acetate to give the title compound (182 mg, yield 69%) as colorless crystals.

reactant | 2-(3-bromo-1-benzofuran-5-yl)-5-methyl-1,3,4-oxadiazole | 0.900 mmol, 251 mg | BrC1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C11H7BrN2O2
reactant | (4-fluorophenyl)boronic acid | 1.00 mmol, 140 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2.00 mmol, 212 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 5 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0270 mmol, 31.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1 mL | O | H2O
product | 2-[3-(4-fluorophenyl)-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole | 182 mg, yield 69% | FC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C17H11FN2O2
